US05861417
Combine methyl 2-methoxy-5-(1H-tetrazol-1-yl)benzoate (2.86 g, 12.2 mmol) and a 1 M aqueous solution of sodium hydroxide (13.43 mL, 13.43 mmol) in methanol/water (100 mL, 5:1 vol./vol.). Heat to reflux. After 4 hours, concentrate in vacuo to remove most of the methanol, add water (50 mL), and adjust the pH to about 4 using a 1M aqueous hydrochloric acid solution. Evaporate in vacuo to give a solid, slurry the solid with water, filter, and dry to give 2-methoxy-5-(1H-tetrazol-1-yl)benzoic acid.

reactant | methyl 2-methoxy-5-(1H-tetrazol-1-yl)benzoate | 12.2 mmol, 2.86 g | COC1=C(C(=O)OC)C=C(C=C1)N1N=NN=C1 | C10H10N4O3
reactant | sodium hydroxide | 13.43 mmol, 13.43 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | methanol water | 100 mL | CO.O
product | 2-methoxy-5-(1H-tetrazol-1-yl)benzoic acid | COC1=C(C(=O)O)C=C(C=C1)N1N=NN=C1 | C9H8N4O3
